US08048825B2
3-(2-Nitrobenzylamino)-1-propanol (1.03 g, 4.90 mmol) was dissolved in chloroform (20 ml) and the reaction solution was cooled to 0° C. Then triethylamine (1.98 g, 19.6 mmol), triphosgene (0.58 g, 1.95 mmol) were added thereto and the mixture was stirred at the same temperature for 1.5 hours. The reaction mixture was added with water and extracted with ethyl acetate and after the organic layer was washed with a saturated brine, it was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:4) and 3-(2-nitrobenzyl)-[1,3]-oxazinan-2-one (0.29 g) was obtained.

reactant | 3-(2-Nitrobenzylamino)-1-propanol | 4.90 mmol, 1.03 g | [N+](=O)([O-])C1=C(CNCCCO)C=CC=C1 | C10H14N2O3
reactant | triethylamine | 19.6 mmol, 1.98 g | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 1.95 mmol, 0.58 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | water | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-nitrobenzyl)-[1,3]-oxazinan-2-one | 0.29 g | [N+](=O)([O-])C1=C(CN2C(OCCC2)=O)C=CC=C1 | C11H12N2O4
